US04046889
1-(4-Benzoylthiobutanoyl)-L-Proline
To a solution of L-proline (2.88 g.) in normal sodium hydroxide (25 ml.) chilled in an ice bath, 2N sodium hydroxide (12.5 ml.) and 4-chlorobutyryl chloride (3.5 g.) are added. The reaction mixture is stirred at room temperature for 3.5 hours and a suspension of thiobenzoic acid (3.75 g.) and potassium carbonate (2.4 g.) in water (25 ml.) is added. After overnight stirring at room temperature, the reaction mixture is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer is dried over magnesium sulfate and concentrated to dryness in vacuo. The residue is chromatographed on a column of silica gel with benzene-acetic acid (7:1). The fractions containing the desired material are pooled and concentrated to dryness, yield 1.35 g. A small aliquot of this material is dissolved in ethyl acetate and dicyclohexylamine is added until pH 8-10 (on a wet pH paper). The dicyclohexylamine salt crystallizes out, immediately, m.p. 159°-161°.

reactant | L-proline | 2.88 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | 4-chlorobutyryl chloride | 3.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | thiobenzoic acid | 3.75 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | potassium carbonate | 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 25 ml | [OH-].[Na+]
solvent | water | 25 ml | O | H2O
solvent | sodium hydroxide | 2N, 12.5 ml | [OH-].[Na+]
product | 1-(4-Benzoylthiobutanoyl)-L-Proline | C(C1=CC=CC=C1)(=O)SCCCC(=O)N1[C@H](C(=O)O)CCC1 | C16H19NO4S
